US05374635
Step 3: Methyl thieno[3,2-b]pyridine-5-carboxylate
To a cold solution of HCI (10%) in MeOH (10 mL) was added thieno[3,2-b]pyridine-5-carboxylic acid (1.0 g, 5.6 mmol, and the mixture heated to reflux for 2 hr. After cooling to r.t., half the solvent was removed by evaporation and the remainder was partitioned between EtOAc and H2O. Solid NaHCO3 was added until the system remained basic. Separation, drying and evaporation of the organic layer afforded 0.75 g (70%) of the title compound.

reactant | thieno[3,2-b]pyridine-5-carboxylic acid | S1C=CC2=NC(=CC=C21)C(=O)O | C8H5NO2S
reactant | MeOH | 10 mL | CO | CH4O
product | Methyl thieno[3,2-b]pyridine-5-carboxylate | 0.75 g, 70% | S1C=CC2=NC(=CC=C21)C(=O)OC | C9H7NO2S
